US06566384B1
1-[4-(3-Bromo-propoxymethyl)-cyclohexyl]-4-methoxybenzene
To a mixture of (4-methoxy-cyclohexyl)-methanol (1.25 g, 8.7 mmol) and trifluoromethanesulfonic acid 3-bromo-propyl ester (2.58 g, 9.55 mmol) in nitromethane (15 ml) was added 2,6-di-tert-butylpyridine (1.83 ml, 9.55 mmol). The reaction mixture was heated at 80° C. for 18 hours. The mixture was concentrated in vacuo and the residue purified by flash column chromatography on silica eluting with 20% ethyl acetate in hexane to give the title compound as a yellow oil (1.4 g, 61%).

reactant | (4-methoxy-cyclohexyl)-methanol | 8.7 mmol, 1.25 g | COC1CCC(CC1)CO | C8H16O2
reactant | trifluoromethanesulfonic acid 3-bromo-propyl ester | 9.55 mmol, 2.58 g | BrCCCOS(=O)(=O)C(F)(F)F | C4H6BrF3O3S
reactant | 2,6-di-tert-butylpyridine | 9.55 mmol, 1.83 ml | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | nitromethane | 15 ml | [N+](=O)([O-])C | CH3NO2
product | 1-[4-(3-Bromo-propoxymethyl)-cyclohexyl]-4-methoxybenzene | 1.4 g, 61% | BrCCCOCC1CCC(CC1)C1=CC=C(C=C1)OC | C17H25BrO2
